US07491794B2
1-Morpholin-4-ylmethyl-1,2,3,4-tetrahydro-isoquinoline was synthesized by a similar fashion as shown in Example 3-76a, except that in Step 1, phenethylamine was used to replace 2-(3-methoxy-phenyl)-ethylamine, and that in the first part of Step 3, morpholin was used to replace sodium methoxide as the nucleophile. The crude product was used directly in the next coupling step without further purification.

reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | 2-(3-methoxy-phenyl)-ethylamine | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | morpholin | N1CCOCC1 | C4H9NO
reactant | sodium methoxide | C[O-].[Na+]
product | 1-Morpholin-4-ylmethyl-1,2,3,4-tetrahydro-isoquinoline | N1(CCOCC1)CC1NCCC2=CC=CC=C12 | C14H20N2O
